US09255094B2
Preparation of 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyrazin-2-yl)propan-2-ol (Compound No. 1-28)
To a stirred solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido(4,3-b)indole (350 mg, 1.75 mmol) in DMF (4 mL) was added sodium hydride (210 mg, 5.25 mmol) followed by dropwise addition of 2-(2-methyl oxiranyl)pyrazine (310 mg, 2.275 mmol) at 10° C. and the reaction mixture was further stirred at RT for 16 h. After completion, the reaction mixture was poured into ice cooled water, extracted with EtOAc (3×75 mL). The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated yielding crude product, which was re-crystallized in ether and hexane to yield a yellow solid product (350 mg). 1H NMR (DMSO, Oxalate salt) d (ppm): 8.65 (s, 1H), 8.55 (s, 1H), 8.50 (d, 1H), 7.10 (s, 1H), 6.90 (d, 1H), 6.78 (d, 1H), 4.30 (m, 4H), 3.20 (m, 2H), 3.0 (m, 2H), 2.90 (s, 3H), 2.30 (s, 3H), 1.50 (s, 3H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido(4,3-b)indole | 1.75 mmol, 350 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | sodium hydride | 5.25 mmol, 210 mg | [H-].[Na+]
reactant | 2-(2-methyl oxiranyl)pyrazine | 2.275 mmol, 310 mg | CC1(OC1)C1=NC=CN=C1 | C7H8N2O
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyrazin-2-yl)propan-2-ol | 350 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C2=NC=CN=C2)CC1 | C20H24N4O
